US07470679B2
(S)-Methyl 2-(4-chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate
(S)-Dimethyl 2-((7-chloro-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate (120 mg, 0.33 mmol) was dissolved in DMF (1.0 mL). 4-Aminomethylpyridine (100 μL, 1.0 mmol) was added to the mixture. Reaction stirred at room temperature for 24 hours. Mixture was diluted with ethyl acetate. Mixture was washed twice with water and once with brine. Organic was dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was dissolved in toluene (4 mL). Acetic acid (1 mL) was added to the mixture. Reaction was heated at reflux for 3.5 hours. Mixture was cooled to room temperature then diluted with ethyl acetate. Material was washed once with water and twice with aqueous sodium bicarbonate. Aqueous was made basic with sodium bicarbonate. Back extracted from the aqueous twice with ethyl acetate. Combined organics were dried (magnesium sulfate), filtered and concentrated in vacuo. Residue was purified with silica gel chromatography eluting dichloromethane and 2N ammonia in methanol. Title compound was obtained as yellow solid in 48% yield. MS m/e (M+H)+=399.2.

reactant | (S)-Dimethyl 2-((7-chloro-4-(chloromethyl)-1H-indazol-5-yl)methyl)succinate | 0.33 mmol, 120 mg | ClC=1C=C(C(=C2C=NNC12)CCl)C[C@H](C(=O)OC)CC(=O)OC | C15H16Cl2N2O4
reactant | 4-Aminomethylpyridine | 1.0 mmol, 100 μL | NCC1=CC=NC=C1 | C6H8N2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-Methyl 2-(4-chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 48% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)OC)=O)CC2=CC=NC=C2 | C20H19ClN4O3
